US09216968B2
N-(3-Chloro-2-methylphenyl)-2-(dimethylamino)-6-nitro-1H-benzimidazole-4-carboxamide
To a solution of 2-(dimethylamino)-6-nitro-1H-benzimidazole-4-carboxylic acid (520 mg) and HBTU (1.03 g) in DMF (6 mL), were added N,N-diisopropylethylamine (942 μL) and 3-chloro-2-methylaniline (323 μl), and the mixture was stirred at room temperature for 15 hours. The reaction mixture was diluted with ethyl acetate-THF (1:1), washed with brine, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with MeOH to obtain the titled compound (650 mg) as a yellow solid.

reactant | 2-(dimethylamino)-6-nitro-1H-benzimidazole-4-carboxylic acid | 520 mg | CN(C1=NC2=C(N1)C=C(C=C2C(=O)O)[N+](=O)[O-])C | C10H10N4O4
reactant | HBTU | 1.03 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 942 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-2-methylaniline | 323 μl | ClC=1C(=C(N)C=CC1)C | C7H8ClN
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate THF | C(C)(=O)OCC.C1CCOC1
product | N-(3-Chloro-2-methylphenyl)-2-(dimethylamino)-6-nitro-1H-benzimidazole-4-carboxamide | 650 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)N(C)C)[N+](=O)[O-])C | C17H16ClN5O3
